US04396627
1-(4-Methoxymethylphenyl)propan-2-one
1-(4-Bromomethylphenyl)propan-2-one ethylene ketal (1.35 g) in methanol was added to sodium methoxide (from sodium (0.11 g)) in methanol containing a trace of sodium iodide. The mixture was refluxed for 1 hour. Methanol was removed, the residue partitioned between water and ether and the combined organic extracts dried. Removal of the solvent gave an oil which was dissolved in methanol-2 N hydrochloric acid and left for 1 hour at room temperature. Extraction with ether gave the title compound, bp 106°/0.7 mm. τ(CDCl3) 7.9 (3H, s), 7.63 (3H, s), 6.33 (2H, s), 5.54 (2H, s), 2.8 (2H, d, J=8 Hz), 2.6 (2H, d, J=8 Hz).

reactant | 1-(4-Bromomethylphenyl)propan-2-one ethylene ketal | 1.35 g | C1COC(CC2=CC=C(C=C2)CBr)(C)O1 | C12H15BrO2
reactant | sodium methoxide | 0.11 g | C[O-].[Na+]
reactant | sodium iodide | [I-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 2 N | CO | CH4O
product | 1-(4-Methoxymethylphenyl)propan-2-one | COCC1=CC=C(C=C1)CC(C)=O | C11H14O2
